US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2-methyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxamide
To a solution of 2-methyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylic acid (241 mg, 1.23 mmol) in tetrahydrofuran (5 mL) were added N,N-dimethylformamide (2 drops) and oxalyl chloride (268 μL, 3.08 mmol), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (6 mL). The mixture was stirred at room temperature, N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.619 mmol) was added thereto, and the mixture was stirred at room temperature for 62 hr. Methanol (5 mL), tetrahydrofuran (5 mL), water (5 mL) and sodium carbonate solution (2 mL) were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. A white precipitate was collected by filtration, and the filtrate was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and a white precipitate obtained above was added to the residue. The mixture was recrystallized from ethanol to give the title compound (252 mg, 81%) as a white solid.

reactant | 2-methyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylic acid | 1.23 mmol, 241 mg | CC=1OC(=C(N1)C(=O)O)C(F)(F)F | C6H4F3NO3
reactant | oxalyl chloride | 3.08 mmol, 268 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.619 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | Methanol | 5 mL | CO | CH4O
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-2-methyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxamide | 252 mg, 81% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C=2N=C(OC2C(F)(F)F)C)C)=N1 | C23H19F3N6O4
